US05409943
N-(3-(2-Methylbenzyloxy)-2-pyridyl)-4-fluorophenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (5.2 g, 24.2 mmol) and ethyl 4-fluorophenylacetimidate hydrochloride (5.8 g, 26.7 mmol) in ethanol (80 ml) was heated under reflux for 2 hours, then the solvent evaporated. The residue was purified by flash chromatography (chloroform/methanol) to obtain the product as a foam (0.49 g), m.p. 59°-64° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 24.2 mmol, 5.2 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | ethyl 4-fluorophenylacetimidate hydrochloride | 26.7 mmol, 5.8 g | Cl.FC1=CC=C(C=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Methylbenzyloxy)-2-pyridyl)-4-fluorophenylacetamidine hydrochloride | 0.49 g | Cl.CC1=C(COC=2C(=NC=CC2)NC(CC2=CC=C(C=C2)F)=N)C=CC=C1 | InChI=1S/C21H20FN3O.ClH/c1-15-5-2-3-6-17(15)14-26-19-7-4-12-24-21(19)25-20(23)13-16-8-10-18(22)11-9-16;/h2-12H,13-14H2,1H3,(H2,23,24,25);1H
